US07691882B2
(5-[1,3]Dioxolan-2-yl-pyridin-2-yl)-methanol
To an ethanol (20 mL) and tetrahydrofuran (20 mL) solution of 5-[1,3]dioxolan-2-yl-pyridine-2-carbaldehyde (1.73 g, 9.66 mmol) described in Manufacturing Example 154-1-3 was added sodium borohydride (731 mg, 19.3 mmol), which was stirred for 25 minutes at room temperature. Water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=1:2) to obtain the title compound (1.37 g, 78%).

reactant | ethanol | 20 mL | C(C)O | C2H6O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | 5-[1,3]dioxolan-2-yl-pyridine-2-carbaldehyde | 9.66 mmol, 1.73 g | O1C(OCC1)C=1C=CC(=NC1)C=O | C9H9NO3
reactant | sodium borohydride | 19.3 mmol, 731 mg | [BH4-].[Na+]
solvent | Water | O | H2O
product | (5-[1,3]Dioxolan-2-yl-pyridin-2-yl)-methanol | 1.37 g, 78% | O1C(OCC1)C=1C=CC(=NC1)CO | C9H11NO3
